US07259160B2
Step G: (3R,7R)-3,7-Dimethyl-1,4-diazepan-2-one
A mixture of benzyl (2R,5R)-2,5-dimethyl-3-oxo-1,4-diazepane-1-carboxylate (160 mg) and 10% palladium on carbon (32 mg) in methanol (15 mL) was stirred at room temperature overnight, filtered over Celite, and washed with 10% methanol in dichloromethane. The filtrate was concentrated under reduced pressure to yield the title compound. MS 143.1 (M+1).

reactant | benzyl (2R,5R)-2,5-dimethyl-3-oxo-1,4-diazepane-1-carboxylate | 160 mg | C[C@H]1N(CC[C@H](NC1=O)C)C(=O)OCC1=CC=CC=C1 | C15H20N2O3
catalyst | palladium on carbon | 32 mg | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | (3R,7R)-3,7-Dimethyl-1,4-diazepan-2-one | C[C@@H]1C(N[C@@H](CCN1)C)=O | C7H14N2O
